US06541423B1
1.7 Methyl 3-Formamidyl-2-methyl-4-methylsulfanylbenzoate
At 40° C., 4.75 g of methyl 3-amino-2-methyl-4-methylsulfanylbenzoate (0.05 mol) were added a little at a time to a mixture of 30 ml of acetic anhydride and 2.2 g of formic acid (0.05 mol). After 5 h, the solution was allowed to cool and poured into ice-water, and the mixture was extracted exhaustively with methylene chloride. The organic phases were washed and dried, and the solvent was subsequently removed. Yield: 4.7 g (0.044 mol).

reactant | methyl 3-amino-2-methyl-4-methylsulfanylbenzoate | 0.05 mol, 4.75 g | NC=1C(=C(C(=O)OC)C=CC1SC)C | C10H13NO2S
reactant | formic acid | 0.05 mol, 2.2 g | C(=O)O | CH2O2
solvent | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
product | Methyl 3-Formamidyl-2-methyl-4-methylsulfanylbenzoate | C(=O)NC=1C(=C(C(=O)OC)C=CC1SC)C | C11H13NO3S
